US06194406B1
Combine methyl 3-methoxy-4,5-dihydroxybenzoate (0.5 g, 2.5 mmol) and potassium carbonate (1.74 g, 12.65 mmol) in acetone (25 mL). Add dibromoethane (2.37 g, 12.65 mmol). Heat to reflux. After 24 hours, cool in an ice bath, acidify with a 1 M aqueous hydrochloric acid solution (35 mL), add water (25 mL), and extract three times with ethyl acetate. Combine the organic layers and extract with brine. Dry over-MgSO4, filter, and concentrate in vacuo to give methyl 3-methoxy-4,5-ethylenedioxybenzoate.

reactant | methyl 3-methoxy-4,5-dihydroxybenzoate | 2.5 mmol, 0.5 g | COC=1C=C(C(=O)OC)C=C(C1O)O | C9H10O5
reactant | potassium carbonate | 12.65 mmol, 1.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | dibromoethane | 12.65 mmol, 2.37 g | BrC(C)Br | C2H4Br2
reactant | hydrochloric acid | 1 M, 35 mL | Cl | ClH
solvent | acetone | 25 mL | CC(=O)C | C3H6O
solvent | water | 25 mL | O | H2O
product | methyl 3-methoxy-4,5-ethylenedioxybenzoate | COC=1C=C(C(=O)OC)C=C2C1OCCO2 | C11H12O5
